### PR TITLE
[Merged by Bors] - feat(CategoryTheory): the regular topology is subcanonical

### PR DESCRIPTION
**Pull request by dagurtomas**
We prove that the regular topology on any `Preregular` category is subcanonical.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/RegularExtensive.lean [hunk 1]
```diff
@@ -254,6 +256,33 @@ lemma isSheaf_of_projective (F : Cᵒᵖ ⥤ Type (max u v)) [Preregular C] [∀
...
+  obtain ⟨t, t_amalg, t_uniq⟩ :=
+    (Sieve.forallYonedaIsSheaf_iff_colimit S).mpr ⟨h_colim⟩ W x_ext hx_ext
+  refine ⟨t, ?_, ?_⟩
+  · convert Presieve.isAmalgamation_restrict (Sieve.le_generate
+      (Presieve.ofArrows (fun () ↦ Y) (fun () ↦ f))) _ _ t_amalg
+    exact (Presieve.restrict_extend hx).symm
+  · exact fun y hy ↦ t_uniq y <| Presieve.isAmalgamation_sieveExtend x y hy
+
+/-- The regular topology on any preregular category is subcanonical. -/
+theorem isSubcanonical [Preregular C] : Sheaf.Subcanonical (regularCoverage C).toGrothendieck :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/RegularExtensive.lean:281]: This name would follow more `mathlib4` naming conventions.
```suggestion
theorem subcanonical [Preregular C] : Sheaf.Subcanonical (regularCoverage C).toGrothendieck :=
```
There is a similar fix which should be done at https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/CategoryTheory/Sites/Coherent.lean#L132

**Review by joelriou — APPROVED** [review]
Thanks!

bors d+
